US09370522B2
Propane-2-sulfonyl chloride (300 mg, 2.10 mmol, 5.00 equiv) was added to a solution of methyl 3-(4-aminophenyl)-2-phenylquinoxaline-6-carboxylate (150 mg, 0.42 mmol, 1.00 equiv) and DIEA (545 mg, 4.22 mmol, 10.00 equiv) in dichloromethane (30 mL) at 0° C., and the resulting solution was stirred overnight at room temperature. The reaction mixture was concentrated under vacuum and purified via silica gel column (ethyl acetate/petroleum ether (1:10)), affording 170 mg (87%) of methyl 2-phenyl-3-(4-(propan-2-ylsulfonamido)phenyl)quinoxaline-6-carboxylate as a yellow solid.

reactant | Propane-2-sulfonyl chloride | 2.10 mmol, 300 mg, 5.00 equiv | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | methyl 3-(4-aminophenyl)-2-phenylquinoxaline-6-carboxylate | 0.42 mmol, 150 mg, 1.00 equiv | NC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C22H17N3O2
reactant | DIEA | 4.22 mmol, 545 mg, 10.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 2-phenyl-3-(4-(propan-2-ylsulfonamido)phenyl)quinoxaline-6-carboxylate | 170 mg, 87% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)NS(=O)(=O)C(C)C)C(=O)OC | C25H23N3O4S
